US05254755
As another example, 2-trifluoromethyl-1,1,1,3,3-pentafluoro-2-hexanol may be prepared by fluorinating commercially available 3-hexanone to form 3,3-difluorohexane which may then be dehydrogenated to form 3,3-difluoro-2-hexene. CF3 may then be reacted with the 3,3-difluoro-2-hexene to form 2-trifluoromethyl-1,3,3-trifluorohexane which may then be dehydrogenated to form 2-trifluoromethyl-1,3,3-trifluoro-1-hexene. The 2-trifluoromethyl-1,3,3-trifluoro-1-hexene may then be reacted with hydrogen fluoride to form 2-trifluoromethyl-1,1,3,3-tetrafluorohexane which may then be dehydrogenated to form 2-trifluoromethyl-1,1,3,3-tetrafluoro-1-hexene which may then be fluorinated to form 2-trifluoromethyl-1,1,1,2,3,3-hexafluorohexane. The 2-trifluoromethyl-1,1,1,2,3,3-hexafluorohexane may then be hydrolyzed to form 2-trifluoromethyl-1,1,1,3,3-pentafluoro-2-hexanol.

reactant | 2-trifluoromethyl-1,3,3-trifluoro-1-hexene | FC(C(=CF)C(CCC)(F)F)(F)F | C7H8F6
reactant | hydrogen fluoride | F | FH
product | 2-trifluoromethyl-1,1,3,3-tetrafluorohexane | FC(C(C(F)F)C(CCC)(F)F)(F)F | C7H9F7
